US08809525B2
6-[2-(Azetidin-1-yl)-6-methylpyridin-4-yl]-5-phenyl-1,2,4-triazin-3-amine was prepared from 5-phenyl-6-(2-chloro-6-methyl-pyridin-4-yl)-1,2,4-triazin-3-amine (100 mg, 0.34 mmol) and azetidine (96 mg, 0.11 ml, 1.69 mmol) according to the general procedure for Preparation 4a.

reactant | 5-phenyl-6-(2-chloro-6-methyl-pyridin-4-yl)-1,2,4-triazin-3-amine | 0.34 mmol, 100 mg | C1(=CC=CC=C1)C=1N=C(N=NC1C1=CC(=NC(=C1)C)Cl)N | C15H12ClN5
reactant | azetidine | 1.69 mmol, 0.11 ml, 96 mg | N1CCC1 | C3H7N
product | 6-[2-(Azetidin-1-yl)-6-methylpyridin-4-yl]-5-phenyl-1,2,4-triazin-3-amine | N1(CCC1)C1=NC(=CC(=C1)C1=C(N=C(N=N1)N)C1=CC=CC=C1)C | C18H18N6
